Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
balloon angioplasty 
Impella placement 
 
History of Present Illness:
___ with no significant PMH who presents from urgent clinic with
chest pain, found to have anterior STEMI. 

One week ago patient experienced an episode of chest pain
radiating to her shoulder. Since then she has been feeling very
fatigued with intermittent chest pain. Her daughter brought her
to urgent care ___ where EKG showed e/o anterior STEMI. She was
transferred to ___. At ___ she denied SOB/CP. She received
aspirin and IV heparin in the ED. 

In the ED, she was noted to be tachcycardic with a low pulse
pressure. She was started on IV heparin and given aspirin. 

Initial vitals were:  98.1 118 136/88 18 99% RA    

Labs notable for:  
1) BMP: Na 140, K 4.2, Cl 98, HCO3 24, BUN 23, Cr 0.9
2) CBC: WBC 13.7, Hb 13.9, plt 300, 80% PMN
3) Coags: INR 1.1, PTT 27.7
4) Trop-T 4.33

Studies notable for:  
1) EKG: SR, LAD, HR 114, STE V1-V6

Patient was given:  
___ 13:53 PO Aspirin 324 mg  
___ 13:53 IV Heparin 3800 UNIT   
___ 13:53 IV Heparin Started 750 units/hr 
___ 14:01 PO/NG TiCAGRELOR 180 mg 

Cardiology was consulted and took patient urgently to the cath
lab. She was found to have complete occlusion of her proximal
LAD. Balloon angioplasty was performed, but had poor flow
afterwards (likely in setting of prolonged occlusion). 

After the cath, she had a VT x3-4 shocks and afterwards required
dopamine and levophed. An impella was placed via the R groin.
Notably, she has had suction events on the Impella concerning 
for
RV failure in the setting of her MI. She was given 1.5L IVF to
increase CVP, but she was still having suction events. A
temporary wire was placed and she is being paced around 100 to
override VT. An A-line was placed in the right radial artery and
a Swan-Ganz in her R neck. The left groin cath access site had a
small hematoma s/p angioseal. She was intubated and remains on
midazolam for sedation. 

On arrival to the CCU, she is intubated and sedated. 

 
Past Medical History:
None 
 
Social History:
___
Family History:
Not known 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS: Reviewed in Metavision
GENERAL: intubated and sedated  
HEENT: Normocephalic, atraumatic. Sclera anicteric. PERRL. EOMI. 


CARDIAC: pulseless, regular rate, no murmurs 
LUNGS: intubated, no adventitious breath sounds 
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: cold, no significant edema  
SKIN: No significant skin lesions or rashes.  
PULSES: pulseless 

DEATH EXAM:
===========
Heart and respiratory sounds
were absent, peripheral pulses were absent. She did not respond
to painful stimuli off sedation. Pupils were non-reactive.

 
Pertinent Results:
___ 01:45PM BLOOD WBC-13.7* RBC-4.34 Hgb-13.9 Hct-41.6 
MCV-96 MCH-32.0 MCHC-33.4 RDW-13.0 RDWSD-45.5 Plt ___
___ 01:45PM BLOOD Neuts-79.9* Lymphs-8.3* Monos-10.6 
Eos-0.5* Baso-0.1 Im ___ AbsNeut-10.95* AbsLymp-1.14* 
AbsMono-1.46* AbsEos-0.07 AbsBaso-0.02
___ 01:45PM BLOOD ___ PTT-27.7 ___
___ 01:45PM BLOOD Glucose-119* UreaN-23* Creat-0.9 Na-140 
K-4.2 Cl-98 HCO3-24 AnGap-18
___ 01:45PM BLOOD cTropnT-4.33*
___ 01:45PM BLOOD CK-MB-8
 
Brief Hospital Course:
Patient presented with ~1 week of chest pain and malaise. She 
was found to have a STEMI on EKG. She was given aspirin, 
ticagrelor, and heparin. She was urgently taken to the cath lab 
where she was found to have a complete occlusion of the proximal 
LAD s/p balloon angioplasty. Cath c/b VT arrest s/p multiple 
shocks, venous pacing started as well as cardiogenic shock s/p 
Impella. She was intubated in the cath lab. Patient arrived to 
the floor directly from the cath lab with Impella in place, 
ventilated/sedated, on dopamine and levophed. Per report from 
the cath lab, she was not pulsatile in the lab. Upon arrival to 
the CVICU she was persistently a-pulsatile. Her MAPS continued 
to drop and at 18:45 she was went into asystole.

Attending addendum: Patient seen and examined by me, agree with 
clinical details notated by resident above. I saw her in CVICU - 
unresponsive and with almost flat tracing on arterial waveforms, 
in complete heart block and pacemaker not capturing. She had 
already had attempt at resuscitation with fluid boluses, CPR, 
pressors, pacemaker manipulations and Impella device in place. 
Family present. I also reviewed with interventional team who 
were still present. Prognosis clearly untenable at that point, 
and further resuscitative attempts or interventions were not 
performed.  

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Aspirin 325 mg PO DAILY 
2. Multivitamins 1 TAB PO DAILY 

 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
patient died
 
Discharge Condition:
patient died
 
Discharge Instructions:
patient died
 
Followup Instructions:
___